US08703761B2
E. 4-{2-[2-(4-Fluoro-benzoylamino)-2-methyl-propionylamino]-4-phenyl-thiazole-5-carbonyl}-piperazine-1-carboxylic acid tert-butyl ester
A mixture of 2-[2-(4-Fluoro-benzoylamino)-2-methyl-propionylamino]-4-phenyl-thiazole-5-carboxylic acid (46 mg, 0.11 mmol), HBTU (50 mg, 0.13 mmol), triethylamine (22 uL, 0.16 mmol) and N-Boc piperazine (27 mg, 0.15 mmol) in DMF (2 mL) was stirred at RT for 18 h and partitioned between ethyl acetate and aq. K2CO3. The organic extract was dried over MgSO4, concentrated and chromatographed to give the title compound. m/z 596.2 (MH+).

reactant | 2-[2-(4-Fluoro-benzoylamino)-2-methyl-propionylamino]-4-phenyl-thiazole-5-carboxylic acid | 0.11 mmol, 46 mg | FC1=CC=C(C(=O)NC(C(=O)NC=2SC(=C(N2)C2=CC=CC=C2)C(=O)O)(C)C)C=C1 | C21H18FN3O4S
reactant | HBTU | 0.13 mmol, 50 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.16 mmol, 22 uL | C(C)N(CC)CC | C6H15N
reactant | N-Boc piperazine | 0.15 mmol, 27 mg | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-{2-[2-(4-Fluoro-benzoylamino)-2-methyl-propionylamino]-4-phenyl-thiazole-5-carbonyl}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1=C(N=C(S1)NC(C(C)(C)NC(C1=CC=C(C=C1)F)=O)=O)C1=CC=CC=C1 | C30H34FN5O5S
